US08461348B2
methyl 4-[3-(3-bromophenyl)-1-cyanopropyl]benzoate
To a mixed solution of methyl 4-(cyanomethyl)benzoate (3.50 g, 20.0 mmol), tetrahydrofuran (25 mL) and N,N-dimethylformamide (10 ml) was added tert-butoxy potassium (2.69 g, 24.0 mmol) at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added 1-bromo-3-(2-bromoethyl)benzene (3.37 mL, 22.0 mmol) at the same temperature, and the mixture was stirred under ice-cooling for 4 hr. The reaction mixture was diluted with water, extracted with ethyl acetate, washed successively with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (3.94 g, 55%) as a colorless oil.

reactant | methyl 4-(cyanomethyl)benzoate | 20.0 mmol, 3.50 g | C(#N)CC1=CC=C(C(=O)OC)C=C1 | C10H9NO2
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | tert-butoxy potassium | 24.0 mmol, 2.69 g | C(C)(C)(C)O[K]
reactant | 1-bromo-3-(2-bromoethyl)benzene | 22.0 mmol, 3.37 mL | BrC1=CC(=CC=C1)CCBr | C8H8Br2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 4-[3-(3-bromophenyl)-1-cyanopropyl]benzoate | 3.94 g, 55% | BrC=1C=C(C=CC1)CCC(C#N)C1=CC=C(C(=O)OC)C=C1 | C18H16BrNO2
